US06951879B2
According to the method in example 6, 6-(4-Bromo-butoxy)-3-(4-bromo-phenyl)-benzo[d]isothiazole and 1,1-dimethylpropargylamine were converted to yield {4-[3-(4-Bromo-phenyl)-benzo[d]isothiazol-6-yloxy]-butyl}-(1,1-dimethyl-prop-2-ynyl)-amine as colorless oil, MS: 443(MH+, 1Br).

reactant | 6-(4-Bromo-butoxy)-3-(4-bromo-phenyl)-benzo[d]isothiazole | BrCCCCOC1=CC2=C(C(=NS2)C2=CC=C(C=C2)Br)C=C1 | C17H15Br2NOS
reactant | 1,1-dimethylpropargylamine | CC(C)(C#C)N | C5H9N
product | {4-[3-(4-Bromo-phenyl)-benzo[d]isothiazol-6-yloxy]-butyl}-(1,1-dimethyl-prop-2-ynyl)-amine | BrC1=CC=C(C=C1)C1=NSC2=C1C=CC(=C2)OCCCCNC(C#C)(C)C | C22H23BrN2OS
